US08426437B2
A solution of 20 μL (0.28 mmol) of thionyl chloride diluted in 0.5 mL of anhydrous ethanol is added dropwise to 27 mg (0.07 mmol) of 4-oxo-8-phenylsulfamoyl-4,5-dihydro-3H -pyrrolo[2,3-c]quinoline-1-carboxylic acid suspended in 0.5 mL of anhydrous ethanol. The solution is stirred under reflux for 72 hours then cooled to room temperature. The solid is filtered to give 3.5 mg (12%) of 4-oxo-8-phenylsulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate in the form of a white solid.

reactant | thionyl chloride | 0.28 mmol, 20 μL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-oxo-8-phenylsulfamoyl-4,5-dihydro-3H -pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.07 mmol, 27 mg | O=C1NC=2C=CC(=CC2C2=C1NC=C2C(=O)O)S(NC2=CC=CC=C2)(=O)=O | C18H13N3O5S
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 4-oxo-8-phenylsulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 3.5 mg, 12% | O=C1NC=2C=CC(=CC2C2=C1NC=C2)S(NC2=CC=CC=C2)(=O)=O.C(C)C(=O)[O-] | InChI=1S/C17H13N3O3S.C3H6O2/c21-17-16-13(8-9-18-16)14-10-12(6-7-15(14)19-17)24(22,23)20-11-4-2-1-3-5-11;1-2-3(4)5/h1-10,18,20H,(H,19,21);2H2,1H3,(H,4,5)/p-1
